US07504508B2
(±)-Cis-N-(4-chloro-phenyl)-N-[7-diethylamino-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide was made in the same way as (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-dimethylamino-benzoyl)-2-methyl-7-morpholin-4-yl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide except diethylamine was substituted for morpholine. The reaction was non-selective and yielded (±)-cis-N-[7-diethylamino-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-diethylamino-phenyl)-acetamide in addition to the titled compound.

reactant | (±)-Cis-N-(4-chloro-phenyl)-N-[7-diethylamino-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC(=CC=C12)N(CC)CC)C(C1=CC=C(C=C1)N(C)C)=O)C | C31H37ClN4O2
reactant | (±)-cis-N-(4-chloro-phenyl)-N-[1-(4-dimethylamino-benzoyl)-2-methyl-7-morpholin-4-yl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC(=CC=C12)N1CCOCC1)C(C1=CC=C(C=C1)N(C)C)=O)C | C31H35ClN4O3
reactant | diethylamine | C(C)NCC | C4H11N
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (±)-cis-N-[7-diethylamino-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-diethylamino-phenyl)-acetamide | C(C)N(C1=CC=C2[C@@H](C[C@@H](N(C2=C1)C(C1=CC=C(C=C1)N(C)C)=O)C)N(C(C)=O)C1=CC=C(C=C1)N(CC)CC)CC | C35H47N5O2
